US08138187B2
3-(2-(1H-1,2,3-Triazol-1-yl)ethyl)-5-fluoro-1H-indole (Ind-22)
A solution of 3-(2-bromo-ethyl)-5-fluoro-1H-indole (7.26 g, 30 mmol), 1,2,3-triazole (2.07 g, 30 mmol) and ethyl-diisopropylamine (5.1 ml, 30 mmol) in abs. chloroform (70 ml) was boiled under reflux for 24 h. The reaction solution was then washed twice with water, dried over Na2SO4 and concentrated i. vac. and the residue which remained was purified by flash chromatography with EA/cyclohexane (1:1→4:1).).

reactant | 3-(2-bromo-ethyl)-5-fluoro-1H-indole | 30 mmol, 7.26 g | BrCCC1=CNC2=CC=C(C=C12)F | C10H9BrFN
reactant | 1,2,3-triazole | 30 mmol, 2.07 g | N1N=NC=C1 | C2H3N3
reactant | ethyl-diisopropylamine | 30 mmol, 5.1 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-(1H-1,2,3-Triazol-1-yl)ethyl)-5-fluoro-1H-indole | N1(N=NC=C1)CCC1=CNC2=CC=C(C=C12)F | C12H11FN4
